US03950376
5-Amino-3-sec-butylthio-4-phenoxybenzoic acid
A mixture of 5-amino-3-mercapto-4-phenoxybenzoic acid (2.6 g), sodium hydrogen carbonate (2 g), saturated sodium hydrogen carbonate (100 ml), and sec.-butyl iodide (2.2 g) is stirred for 6 hours at 55° C. After cooling, 5-amino-3-sec.-butylthio-4-phenoxybenzoic acid is precipitated by addition of hydrochloric acid until pH 2.5. After collection, recrystallization from aqueous ethanol, and drying in vacuo at 80° C, the compound is obtained with a melting point of 157°-159° C.

reactant | 5-amino-3-mercapto-4-phenoxybenzoic acid | 2.6 g | NC=1C(=C(C=C(C(=O)O)C1)S)OC1=CC=CC=C1 | C13H11NO3S
reactant | sec.-butyl iodide | 2.2 g | C(C)(CC)I | C4H9I
solvent | sodium hydrogen carbonate | 100 ml | C(O)([O-])=O.[Na+]
solvent | sodium hydrogen carbonate | 2 g | C(O)([O-])=O.[Na+]
product | 5-Amino-3-sec-butylthio-4-phenoxybenzoic acid | NC=1C(=C(C=C(C(=O)O)C1)SC(C)CC)OC1=CC=CC=C1 | C17H19NO3S
